US06552069B1
Ethyl 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate (1.10 g, 1.570 mmol) and potassium hydroxide (880 mg, 15.70 mmol) were added to a methanol/water mixture (2:1, 15 ml), followed by heating under reflux for 4 hours. After the reaction mixture was neutralized with 1N hydrochloric acid, the solvent was distilled off under reduced pressure. The residue was diluted with water, adjusted to pH 2-3 with 1N hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4) to give 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoic acid (852 mg, Yield 81%) as a colorless foam.

reactant | Ethyl 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoate | 1.570 mmol, 1.10 g | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)OCC)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C34H41F9O5
reactant | potassium hydroxide | 15.70 mmol, 880 mg | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol water | 15 ml | CO.O
product | 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman-4-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)decanoic acid | 852 mg, Yield 81% | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C32H37F9O5
